US05051423
N-(4-Cyanophenyl)methanesulfonamide
Dissolve 50.3 g (0.426 mol) 4-aminobenzonitrile in 250 mL CH2Cl2with 36 mL (0.445 mol) pyridine. Chill the solution with an ice/MeOH bath and add 34 mL (0.42 mol) methanesulfonyl chloride dropwise, maintaining the reaction temperature below 0° C. Stir the reaction mixture under N2 for 20 h at ambient temperature. After this time, filter thereaction mixture and extract with 3×250 mL 1 N NaOH. Acidify the aqueous layer with concentrated HCl to pH=7. Filter the precipitate to provide the title compound.

reactant | 4-aminobenzonitrile | 0.426 mol, 50.3 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | pyridine | 0.445 mol, 36 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.42 mol, 34 mL | CS(=O)(=O)Cl | CH3ClO2S
product | N-(4-Cyanophenyl)methanesulfonamide | C(#N)C1=CC=C(C=C1)NS(=O)(=O)C | C8H8N2O2S
